US07968552B2
A 4 M hydrogen chloride ethyl acetate solution was dropwise added under ice-cooling to an ethyl acetate solution of tert-butyl [2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl]carbamate, followed by stirring at 0° C. for 2 hours. Dichloromethane, acetyl chloride and triethylamine were added to the resulting compound, followed by stirring at room temperature for 12 hours to obtain N-[2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl]acetamide.

reactant | hydrogen chloride ethyl acetate | 4 M | C(C)OC(C)=O.Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butyl [2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl]carbamate | C(=O)C1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCCNC(OC(C)(C)C)=O)C)C=C1 | C29H33NO5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | ClCCl | CH2Cl2
product | N-[2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl]acetamide | C(=O)C1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCCNC(C)=O)C)C=C1 | C26H27NO4
